data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]C(CCC#N)(O)OCC.[OH2:10]>>CCOC(CCC#N)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
C[O+:11]([Si](C)(C)C)[Fe-:10](Cl)(Cl)Cl.COC(CCC1=CC=CC=C1)CC=C>>C[O:11][Si](C)(C)C.Cl[Fe:10](Cl)Cl.COC(CCC1=CC=CC=C1)CC=C 10,11=11
[H:20][O:21]CCCN1C(=O)C2=C3C(=CC=C2)C=CC=C3C1=O.C1CC(=O)[N-:10]C1=O.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][N:10]1C(=O)CCC1=O.C1=CC2=CC=CC3=C2C(=C1)C(=O)N(C3=O)CCC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[H:20][O:21]C(=O)CCC(=O)OCC.[C-:10]#N>>[H:20][C:10]#N.CCOC(=O)CCC(=O)[O-:21] 10=20;20,21=21
C[C:20](=[O+:21]C)C.[Cl-:10]>>C[C:20](C)([O:21]C)[Cl:10] 10=20;20,21=21
[H:20][O+:21](CC)CC=C=N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]CC=C=N 10=20;20,21=21
[H:20][Br:21].CC[O:10]C>>[H:20][O+:10](C)CC.[Br-:21] 10=20;20,21=21
[H:20][C:21](C)(C)[C+:22]1CCCC1.CC[OH:10]>>[H:20][OH+:10]CC.C[C:21](=[C:22]1CCCC1)C 10=20;20,21=21,22
CP(=O)(C)[CH2-:10].[CH2:20]=[O:21]>>CP(=O)(C)[CH2:10][CH2:20][O-:21] 10=20;20,21=21
C[C:21](=[N:20][CH-:10]C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F.C1=CC=C(C=C1)C=CC=O.O>>C[C-:21](C(F)(F)F)[N:20]=[CH:10]C1=CC=C(C=C1)[N+](=O)[O-].C1=CC=C(C=C1)C=CC=O.O 10=20;20,21=21
[CH:20](=[OH+:21])O.[Br-:10]>>[CH:20](O)([OH:21])[Br:10] 10=20;20,21=21
CCOC(=O)C(C)[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[N:21](C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)C(=O)O>>CCOC(=O)C(C)[O+:10]=[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)N[N-:21]C(=O)OCC.C1=CC=C(C=C1)C(=O)O 10=20;20,21=21
C[CH:20]([O-:10])[O:21]C(=O)C>>C[CH:20]=[O:10].CC(=O)[O-:21] 10=20;20,21=21
CCCC=C(C)[CH:20]([NH2+:21]C(C)(C)C)[OH:10].O>>CCCC=C(C)[CH:20]=[OH+:10].CC(C)(C)[NH2:21].O 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC4=CC=C(C=C4)[N+](=O)[O-])[Br:11].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC=C(C=C4)[N+](=O)[O-].[Br-:11].C1CC(=O)NC1=O 10,11=11
C[NH:10]N.C1=CC=C(C=C1)[CH2:20][Cl:21]>>C[NH+:10]([CH2:20]C1=CC=CC=C1)N.[Cl-:21] 10=20;20,21=21
[H:20][O+:21]=C(CBr)O.[OH2:10]>>[H:20][OH2+:10].C(C(=[O:21])O)Br 10=20;20,21=21
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
CCO[C:11](=[CH:10]Cl)[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21].CC(C)(C)O>>CCO[C:11](=[O:12])[CH:10]([CH:20](C1=CC=CC=C1)[O-:21])Cl.CC(C)(C)O 10,11=10,20;20,21=21;12=11
C[C:11](=[CH2:10])[OH:12].[CH2:20]=[OH+:21]>>C[C:11](=[OH+:12])[CH2:10][CH2:20][OH:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C=C(O1)Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC(=C1)Br)S(=O)(=O)O 10=20;20,21=21,22
[H:20][S+:21](CC)C(C)([O-])OC(=O)C=C.[OH2:10]>>[H:20][OH2+:10].CC[S:21]C(C)([O-])OC(=O)C=C 10=20;20,21=21
[H:20][O+:21](CC)C(CC#N)(NC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CC#N)(NC)O 10=20;20,21=21
[H:20][N+:21](=CC(=O)OCC)C(C)C1=CC=CC=C1.[OH-:10].CC1=CC=CC=C1.CC(C1=CC=CC=C1)N>>[H:20][OH:10].CCOC(=O)C=[N:21]C(C)C1=CC=CC=C1.CC1=CC=CC=C1.CC(C1=CC=CC=C1)N 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)Cl)C(=O)OC2=CC=CC=C2.[Al-]([Cl:10])(Cl)(Cl)Cl>>[H:20][Cl+:10][Al-](Cl)(Cl)Cl.C1=CC=C(C=C1)OC(=O)[C:21]2=[CH:22][CH:23]=[C:24](C=C2)OC(=O)Cl 10=20;20,21=21,22;22,23=23,24
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C4=CC=C(O4)C=O.[Br-:10].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=C(OC(=C1)C=O)[CH2:20][Br:10].C1CC(=O)NC1=O 10=20;20,21=21,22
[H:20][Br:21].C1=CC=C(C=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21;12=11
CC(=O)CC1C(=O)CCC[C:20]1=[O:21].[NH3:10].CC(=O)O>>CC(=O)CC1C(=O)CCC[C:20]1([NH3+:10])[O-:21].CC(=O)O 10=20;20,21=21
C1OC2=C(O1)C=C(C=C2)CO[P:10](C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[Br:11].C(Br)(Br)Br>>C1OC2=C(O1)C=C(C=C2)CO[P+:10](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OCC)C(C)C.[F-:10]>>[H:20][F:10].CCO[C:24]1=[CH:23][CH:22]=[C:21](C=C1)C(C)C 10=20;20,21=21,22;22,23=23,24
C[C:20](O)([OH:10])[O:21]C(=O)C=C>>C[C:20](=[OH+:10])O.C=CC(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C)(CC)C(C)CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(C)C(C)(CC)[O:21]CC 10=20;20,21=21
[H:20][NH+:21](CC)CC.C1CC(=O)CC(=[O:10])C1.CC[N+](=CC=C(C)C)CC>>[H:20][O+:10]=C1CCCC(=O)C1.CC[NH:21]CC.CC[N+](=CC=C(C)C)CC 10=20;20,21=21
C1CN(C(C[C:20]12[OH+:21]CC[O:10]2)CC3=CC=CC=C3)C(=O)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.CCO.O.[Cl-]>>C1CN(C(C[C:20]1=[O+:10]CC[OH:21])CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.O.[Cl-] 10=20;20,21=21
CCO[C:20](CC#N)([NH2+:21]C)[OH:10]>>CCO[C:20](=[OH+:10])CC#N.C[NH2:21] 10=20;20,21=21
[H:20][OH+:21]C(C(C1C(OC(O1)(C)C)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)OCC3=CC=CC=C3)SC.C(=O)(C(F)(F)F)[O-:10].C(=O)(C(F)(F)F)O>>[H:20][O:10]C(=O)C(F)(F)F.CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C(C([OH:21])SC)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O 10=20;20,21=21
